US08048884B2
N-{2-[3′-(4-Methoxymethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-N-methyl-benzenesulfonamide hydrochloride
Dissolve benzenesulfonyl chloride (0.087 g, 0.49 mmol, 1.1 eq.) in dichloromethane (4 mL). Add {2-[3′-(4-methoxymethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-methyl-amine (0.150 g, 0.440 mmol, 1 eq.). Add morpholine, polymer-bound (0.201 g, 0.490 mmol, 1.1 eq.). Stir at room temperature for 2 hr. Purify by SCX chromatography (column washed with methanol and extracted with 7N NH3/MeOH) to afford the free base of the title compound (0.202 g, 95% yield). MS (loop): m/z=482.3 [M+H].

reactant | benzenesulfonyl chloride | 0.49 mmol, 0.087 g, 1.1 eq. | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | {2-[3′-(4-methoxymethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-methyl-amine | 0.440 mmol, 0.150 g, 1 eq. | COCC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CCNC | C19H27N5O
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | N-{2-[3′-(4-Methoxymethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-N-methyl-benzenesulfonamide hydrochloride | 0.202 g, 95% yield | Cl.COCC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CCN(S(=O)(=O)C1=CC=CC=C1)C | InChI=1S/C25H31N5O3S.ClH/c1-28(34(31,32)23-6-4-3-5-7-23)14-15-29-16-18-30(19-17-29)25-24(26-12-13-27-25)22-10-8-21(9-11-22)20-33-2;/h3-13H,14-20H2,1-2H3;1H
